US08466282B2
Ethyl 1-(4-methoxybutyl)-5-phenyl-1H-pyrrole-2-carboxylate
Ethyl 5-phenyl-1H-pyrrole-2-carboxylate (400 mg) and 4-methoxybutyl methanesulfonate (440 mg) were dissolved in DMF (10 ml), cesium carbonate (780 mg) was added and the mixture was stirred at 60° C. for 12 hr. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:9-1:4) was concentrated under reduced pressure to give the object product (430 mg).

reactant | Ethyl 5-phenyl-1H-pyrrole-2-carboxylate | 400 mg | C1(=CC=CC=C1)C1=CC=C(N1)C(=O)OCC | C13H13NO2
reactant | 4-methoxybutyl methanesulfonate | 440 mg | CS(=O)(=O)OCCCCOC | C6H14O4S
reactant | cesium carbonate | 780 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Ethyl 1-(4-methoxybutyl)-5-phenyl-1H-pyrrole-2-carboxylate | 430 mg | COCCCCN1C(=CC=C1C1=CC=CC=C1)C(=O)OCC | C18H23NO3
